US04797401
(C) 1-Acetyl-4-(4-methanesulphonamido-3-methylphenyl)piperazine
1-Acetyl-4-(4-amino-3-methylphenyl)piperazine (7.89 g) was dissolved in pyridine (130 ml). Methanesulphonyl chloride (7.9 ml) was added dropwise with stirring. The mixture was reduced in volume after 2 hours by evaporation and then stirred overnight. The resulting slurry was partitioned between water (125 ml) and dichloromethane (100 ml), and the aqueous layer was further extracted with dichloromethane (2×100 ml), 5% methanol in dichloromethane (2×100 ml), and ethyl acetate (2×125 ml). The combined organic layers were dried (sodium sulphate) and evaporated, and the residue was chromatographed in 5% methanol in dichloromethane over t.l.c. grade silica, the product-containing fractions, after evaporation, yielding a foam (5.93 g), Rf 0.29 (5% methanol/dichloromethane/silica), used directly in step (D). A small sample from a second run was recrystallized from ethyl acetate/hexane, m.p. 153°-4°.

reactant | 1-Acetyl-4-(4-amino-3-methylphenyl)piperazine | 7.89 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)N)C | C13H19N3O
reactant | Methanesulphonyl chloride | 7.9 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-4-(4-methanesulphonamido-3-methylphenyl)piperazine | 5.93 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C14H21N3O3S
